US05498716
118.3 g of the salt of (+)-ephedrine and (±)-2-{1-[(7-chloro-1,8-naphthyridin-2-yl)amino]-6-methyl-3-oxoheptyl}benzoic acid and 1700 cm3 of methylene chloride are introduced into a 2.5 liter reactor. The organic solution is washed, at 20° C., with 400 cm3 of a 0.5N aqueous hydrochloric acid solution and then with 400 cm3 of distilled water. The organic phase is dehydrated by azeotropic distillation at 20° C. under reduced pressure (250 mm of mercury; 33.3 kPa). The volume of the organic phase is adjusted to 1700 cm3 by addition of dry methylene chloride, 95.2 g of imidazole are then added and then, over 10 minutes, 25 cm3 of thionyl chloride. The suspension is heated at 40° C. for 30 minutes, then cooled to 20° C. and washed with 2 times 700 cm3 of distilled water. The methylene chloride is removed by distillation at atmospheric pressure while adding, to keep the volume constant, 2500 cm3 of absolute ethanol. When the temperature of the vapour reaches 78° C., the distillation is halted and 4 g of decolorizing charcoal in suspension in 20 cm3 of absolute ethanol are then added. The mixture is left for 30 minutes at 78° C. and then filtered while hot. The decolorizing charcoal is rinsed with 200 cm3 of ethanol at 77° C. The wash and the filtrate are combined and then cooled, at a rate of 20° C./hour, to a temperature of 10° C. The suspension is filtered. The precipitate is washed with 3 times 140 cm3 of absolute ethanol at 10° C. and then dried at 60° C. for 16 hours under reduced pressure (15 mm of mercury; 2.0 kPa). The slightly yellow product obtained (68.9 g) is recrystallized from 1400 cm3 of ethanol at reflux. After cooling to 10° C., the suspension is filtered. The precipitate is washed with 3 times 100 cm3 of absolute ethanol at 10° C. and then dried at 60° C. for 16 hours under reduced pressure (15 mm of mercury; 2.0 kPa). 65.1 g of (+)-2-(7-chloro-1,8-naphthyridin-2-yl)-3-(5-methyl-2-oxohexyl)-1-isoindolinone are thus obtained in the form of a fluffy white product whose characteristics are the following:

reactant | (+)-ephedrine | C[C@H]([C@H](C1=CC=CC=C1)O)NC | C10H15NO
reactant | (±)-2-{1-[(7-chloro-1,8-naphthyridin-2-yl)amino]-6-methyl-3-oxoheptyl}benzoic acid | ClC1=CC=C2C=CC(=NC2=N1)NC(CC(CCC(C)C)=O)C1=C(C(=O)O)C=CC=C1 | C23H24ClN3O3
solvent | methylene chloride | 1700 cm3 | C(Cl)Cl | CH2Cl2
product | (+)-2-(7-chloro-1,8-naphthyridin-2-yl)-3-(5-methyl-2-oxohexyl)-1-isoindolinone | 65.1 g | ClC1=CC=C2C=CC(=NC2=N1)N1C(C2=CC=CC=C2C1CC(CCC(C)C)=O)=O | C23H22ClN3O2
